US06326386B1
(2-{3-Chloro-5-[[2-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-ethyl]-(4-fluoro-phenyl)-carbamoyl]-phenoxy}-ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester
2M Oxalyl chloride solution in dichloromethane (0.115 ml) and DMF (0.005 ml) were added to a suspension of 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid (0.060 g) in anhydrous dichloromethane (5 ml). The reaction was stirred at room temperature for 1.5 h then [2-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-ethyl]-(4-fluoro-phenyl)-amine (0.078 g) as a solution in dichloromethane (0.5 ml), DMAP (0.002 g) and DIPEA (0.080 ml) were added. The reaction mixture was stirred at room temperature for 16 h. The reaction mixture was diluted with further dichloromethane and extracted with saturated aqueous sodium bicarbonate. The aqueous layer was removed and the organic phase washed with water and dried with brine and over sodium sulphate and concentrated under reduced pressure. The residue was purified by flash column chromatography, eluting with ethyl acetate:petroleum ether (1:1, 2:1 and 4:1 v/v), to give the title compound as a colourless gum (0.037 g).

reactant | Oxalyl chloride | 2M | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-[2-(tert-butoxycarbonyl-pyridin-4-yl-amino)-ethoxy]-5-chloro-benzoic acid | 0.060 g | C(C)(C)(C)OC(=O)N(CCOC=1C=C(C(=O)O)C=C(C1)Cl)C1=CC=NC=C1 | C19H21ClN2O5
reactant | [2-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-ethyl]-(4-fluoro-phenyl)-amine | 0.078 g | CC1(OCC(O1)COCCNC1=CC=C(C=C1)F)C | C14H20FNO3
reactant | DIPEA | 0.080 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dichloromethane | 0.115 ml | ClCCl | CH2Cl2
solvent | DMF | 0.005 ml | CN(C)C=O | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
catalyst | DMAP | 0.002 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | (2-{3-Chloro-5-[[2-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-ethyl]-(4-fluoro-phenyl)-carbamoyl]-phenoxy}-ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester | 0.037 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(C1=CC=C(C=C1)F)CCOCC1OC(OC1)(C)C)=O)Cl)=O | C33H39ClFN3O7
